US07468375B2
1-(4-Fluorobenzyl)-N-hydroxy-N-methyl-3-[(2-methyl-3-oxopiperazin-1-yl)methyl]-1H-pyrrolo[2,3-c]pyridine-5-carboxamide
A solution of methyl 1-(4-fluorobenzyl)-3-formyl-1H-pyrrolo[2,3-c]pyridine-5-carboxylate (312 mg, 1.0 mmol, 1.0 eq) in 4 mL anhydrous dichloromethane) was mixed with a solution of 3-methylpiperazin-2-one (114 mg, 1.0 mmol, 1.0 eq) in 4 mL dichloromethane. After the reaction mixture was stirred for 1 h at room temp., sodium triacetoxyborohydride (530 mg, 2.5 mmol, 2.5 eq.) was added, and the resulting mixture was stirred at room temp. overnight. The solvent was removed under reduced pressure, and the residue was dissolved in 8 mL of a 6:3:1 (v/v) mixture of ethylacetate/dichloromethane/methanol. The organic phase was washed with 8 mL of 1.0 M aqueous potassium carbonate, and the aqueous layer was extracted with the 6:3:1 mixture of ethylacetate/dichloromethane/methanol (2×8 mL). The organic phases were combined, dried over anhydrous sodium sulfate, and concentrated to dryness under reduced pressure. The residue was dissolved in 4 mL methanol. Then 1 mL 3.0 M LiOH (3.0 eq) solution was added. After the solution was stirred at rt for 3 h, 3 mL 1.0 M HCl (3.0 eq) was added, and the mixture was stirred for another 15 min. Then the solvent and excess HCl were removed under reduced pressure. The residue was dissolved in 4 mL DMF, and N-methylhydroxyamine (4 mL, 0.25 M in DMF, 1.0 eq), HATU (4 mL, 0.25 M in DMF, 1.0 eq), and triethylamine (0.42 mL, neat, 3 eq) were added. The reaction mixture was stirred at 60° C. for 16 h. The solvent was removed under reduced pressure, and the residue was subjected to prep HPLC for purification to afford the title compound (66 mg, 24% overall yield). 1HNMR (300 MHz, MeOH-d4) δ ppm: 9.08 (s, 1H), 8.85 (b, 1H), 8.32 (s, 1H), 7.37-7.25 (m, 2H), 7.08-6.96 (m, 2H), 5.62 (s, 2H), 4.75 (d, 1H), 4.47 (d, 1H), 3.90-3.77 (m, 1H), 3.54-3.32 (m, 2H), 3.35 (s, 3H), 3.25-3.12 (m, 2H), 1.65 (d, 3H). HRMS calcd for C22H25N5O3F (M+H+) 426.1941, found 426.1947. HPLC: >99% purity.

reactant | methyl 1-(4-fluorobenzyl)-3-formyl-1H-pyrrolo[2,3-c]pyridine-5-carboxylate | 1.0 mmol, 312 mg, 1.0 eq | FC1=CC=C(CN2C=C(C=3C2=CN=C(C3)C(=O)OC)C=O)C=C1 | C17H13FN2O3
reactant | 3-methylpiperazin-2-one | 1.0 mmol, 114 mg, 1.0 eq | CC1C(NCCN1)=O | C5H10N2O
reactant | sodium triacetoxyborohydride | 2.5 mmol, 530 mg, 2.5 eq. | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | LiOH | 3.0 M, 1 mL, 3.0 eq | [Li+].[OH-]
reactant | HCl | 1.0 M, 3 mL, 3.0 eq | Cl | ClH
reactant | N-methylhydroxyamine | 0.25 M, 4 mL, 1.0 eq | CNO | CH5NO
reactant | HATU | 0.25 M, 4 mL, 1.0 eq | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | triethylamine | 0.42 mL, 3 eq | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
product | 1-(4-Fluorobenzyl)-N-hydroxy-N-methyl-3-[(2-methyl-3-oxopiperazin-1-yl)methyl]-1H-pyrrolo[2,3-c]pyridine-5-carboxamide | 66 mg, 24% | FC1=CC=C(CN2C=C(C=3C2=CN=C(C3)C(=O)N(C)O)CN3C(C(NCC3)=O)C)C=C1 | C22H24FN5O3
